US20010049374A1
6-(2-Formylphenoxy)-2-naphthalenecarbonitrile
A solution of 2-hydroxybenzaldehyde (72 mg, 0.59 mmol), 6-bromo-1-cyanonaphthalene (150 mg, 0.65 mmol), and Cs2CO3 (248 mg, 0.76 mmol) in DMF (10 mL) was heated at 90° C. for 2 days, treated with water and extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and concentrated, and the crude product was purified by column chromatography with 10% ethyl acetate/hexane to provide 40 mg of the title compound.

reactant | 2-hydroxybenzaldehyde | 0.59 mmol, 72 mg | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 6-bromo-1-cyanonaphthalene | 0.65 mmol, 150 mg | BrC=1C=C2C=CC=C(C2=CC1)C#N | C11H6BrN
reactant | Cs2CO3 | 0.76 mmol, 248 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(2-Formylphenoxy)-2-naphthalenecarbonitrile | 40 mg | C(=O)C1=C(OC=2C=C3C=CC(=CC3=CC2)C#N)C=CC=C1 | C18H11NO2
